Motorola MECL III ECL gate
*.dc vin -2.0 0 0.02
.tran 0.2ns 20ns
vee 22 0 -6.0
vin 1 0 pulse -0.8 -1.8 0.2ns 0.2ns 0.2ns 10ns 20ns
rs 1 2 50
q1 4 2 6 qmod area = 100p
q2 4 3 6 qmod area = 100p
q3 5 7 6 qmod area = 100p
q4 0 8 7 qmod area = 100p

d1 8 9 dmod
d2 9 10 dmod

rp1 3 22 50k
rc1 0 4 100
rc2 0 5 112
re 6 22 380
r1 7 22 2k
r2 0 8 350
r3 10 22 1958

q5 0 5 11 qmod area = 100p
q6 0 4 12 qmod area = 100p

rp2 11 22 560
rp3 12 22 560

q7 13 12 15 qmod area = 100p
q8 14 16 15 qmod area = 100p

re2 15 22 380
rc3 0 13 100
rc4 0 14 112

q9 0 17 16 qmod area = 100p

r4 16 22 2k
r5 0 17 350
d3 17 18 dmod
d4 18 19 dmod
r6 19 22 1958

q10 0 14 20 qmod area = 100p
q11 0 13 21 qmod area = 100p

rp4 20 22 560
rp5 21 22 560

.model dmod d rs=40 tt=0.1ns cjo=0.9pf n=1 is=1e-14 eg=1.11 vj=0.8 m=0.5

.model qmod nbjt level=1
+ x.mesh node=1  loc=0.0
+ x.mesh node=10 loc=0.9
+ x.mesh node=20 loc=1.1
+ x.mesh node=30 loc=1.4
+ x.mesh node=40 loc=1.6
+ x.mesh node=61 loc=3.0
+ region num=1 material=1
+ material num=1 silicon nbgnn=1e17 nbgnp=1e17
+ mobility material=1 concmod=sg fieldmod=sg
+ mobility material=1 elec major
+ mobility material=1 elec minor
+ mobility material=1 hole major
+ mobility material=1 hole minor
+ doping unif n.type conc=1e17 x.l=0.0 x.h=1.0
+ doping unif p.type conc=1e16 x.l=0.0 x.h=1.5
+ doping unif n.type conc=1e15 x.l=0.0 x.h=3.0
+ models bgnw srh conctau auger concmob fieldmob
+ options base.length=1.0 base.depth=1.25

.options acct bypass=1
.print tran v(12) v(21)
.end
